US09422240B2
To a solution of 5-bromo-2-iodobenzotrifluoride (5.00 g) in dehydrated tetrahydrofuran (140 mL), n-butyl lithium (2.69 mol/L, solution in n-hexane, 5.30 mL) was added at −78° C. and the mixture was stirred at that temperature for 25 minutes. After adding a solution of cyclobutanone (999 mg) in tetrahydrofuran (5.00 mL), the mixture was brought to room temperature and stirred for 3 days. After adding a saturated aqueous solution of ammonium chloride under cooling with ice, two extractions were conducted with ethyl acetate. The combined organic layers were washed with water and thereafter dried over anhydrous magnesium sulfate. After removing the desiccant by filtration, the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=98:2-80:20) to give 1-[4-bromo-2-(trifluoromethyl)phenyl]cyclobutanol as a pale yellow oil (3.00 g).

reactant | 5-bromo-2-iodobenzotrifluoride | 5.00 g | BrC=1C=CC(=C(C1)C(F)(F)F)I | C7H3BrF3I
reactant | cyclobutanone | 999 mg | C1(CCC1)=O | C4H6O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
solvent | n-butyl lithium | 2.69 mol/L, 5.30 mL | C(CCC)[Li]
solvent | tetrahydrofuran | 5.00 mL | O1CCCC1 | C4H8O
product | 1-[4-bromo-2-(trifluoromethyl)phenyl]cyclobutanol | 3.00 g | BrC1=CC(=C(C=C1)C1(CCC1)O)C(F)(F)F | C11H10BrF3O
